US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (1.4 g, 4.0 mmol), 4-trifluoromethyl-benzylamine (0.770 mL, 5.4 mmol), and K2CO3 (1.1 g, 8.0 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-(4-trifluoromethyl-benzyl)-2,3-dihydro-isoindol-1-one (0.553 g, 35%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.23 (s, 2H), 4.83 (s, 2H), 7.28-7.64 (m, 6H). GC-MS: m/z 405 (M+1)+, 336 (M−68)+.

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 4.0 mmol, 1.4 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | 4-trifluoromethyl-benzylamine | 5.4 mmol, 0.770 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | K2CO3 | 8.0 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-chloro-2-(4-trifluoromethyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.553 g, 35% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)C(F)(F)F | C16H10BrClF3NO
